US06479536B1
4-Fluoro-N-(2,2,4,6,7-pentamethyl-3-phenyl-2,3-dihydro-1-benzofuran-5-yl)benzamide
By using 2,2,4,6,7-pentamethyl-3-phenyl-2,3-dihydro-1-benzofuran-5-amine and 4-fluorobenzoyl chloride, the title compound was synthesized according to Example 1b. Yield: 92%. Melting point: 156-158° C. (Ethyl acetate)

reactant | 2,2,4,6,7-pentamethyl-3-phenyl-2,3-dihydro-1-benzofuran-5-amine | CC1(OC2=C(C1C1=CC=CC=C1)C(=C(C(=C2C)C)N)C)C | C19H23NO
reactant | 4-fluorobenzoyl chloride | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-Fluoro-N-(2,2,4,6,7-pentamethyl-3-phenyl-2,3-dihydro-1-benzofuran-5-yl)benzamide | Yield: 92% | FC1=CC=C(C(=O)NC=2C(=C(C3=C(C(C(O3)(C)C)C3=CC=CC=C3)C2C)C)C)C=C1 | C26H26FNO2
